US04740602
4.16 g of 2-[4-(5-ethoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine are boiled with 20 ml of water and 100 ml of 2N ethanolic KOH for 30 min, the usual working up is carried out, and 2-[4-(5-carboxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine is obtained.

reactant | 2-[4-(5-ethoxycarbonyl-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | 4.16 g | C(C)OC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C26H28N2O3
reactant | KOH | 2N, 100 ml | [OH-].[K+]
solvent | water | 20 ml | O | H2O
product | 2-[4-(5-carboxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzofuro[2,3-c]pyridine | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(O2)C=CC=C1 | C24H24N2O3
